US04956359
3-(3-Methylphenoxy)-N-(2-propynyl)-1-azetidinecarboxamide
A stirred mixture of 3.92 g (0.01 mole) of crude (57.59%) 3-(3-methylphenoxy)-1-azetidinecarbonyl chloride and 1.4 g (0.01 mole) of potassium carbonate in 15 ml of tetrahydrofuran was treated with 0.55 g (0.01 mole) of 2-propynylamine added dropwise from a needle and syringe. After 10 min, approximately 1 g of ice was added and stirring continued for 18 hr. The reaction mixture was diluted with 200 ml of water and the oil which separated slowly solidified. The precipitated solid was collected by filtration to yield 4.7 g of crude wet product. After air drying, the solid was recrystallized from benzene-ligroin to yield 1.78 g (72.9%) of fine white crystals, m.p. 140°-142° C.

reactant | 3-(3-methylphenoxy)-1-azetidinecarbonyl chloride | CC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1 | C11H12ClNO2
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propynylamine | 0.01 mole, 0.55 g | C(C#C)N | C3H5N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-(3-Methylphenoxy)-N-(2-propynyl)-1-azetidinecarboxamide | 1.78 g, 72.9% | CC=1C=C(OC2CN(C2)C(=O)NCC#C)C=CC1 | C14H16N2O2
